US05821239
4-[[(Diethylamino)methylene]amino]-3-pyridinol
A mixture of 4-amino-3-pyridinol (3.90 g), N,N-diethylformamide dimethyl acetal (11.68 g) and toluene (20 mL) was heated under nitrogen for 2 hours. The solution was concentrated under reduced pressure. The resulting liquid was filtered through silica gel with 10% ethanol in tetrahydrofuran to give a solid. Recrystallization of the purified product from ethyl acetate/hexanes afforded 4.21 g of crystalline solid, m.p. 104°-106° C.

reactant | 4-amino-3-pyridinol | 3.90 g | NC1=C(C=NC=C1)O | C5H6N2O
reactant | N,N-diethylformamide dimethyl acetal | 11.68 g | COC(N(CC)CC)OC | C7H17NO2
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 4-[[(Diethylamino)methylene]amino]-3-pyridinol | 4.21 g | C(C)N(CC)C=NC1=C(C=NC=C1)O | C10H15N3O
